** sch_path: /home/arjun/eda/projects/SAR_ADC/circuit_files/xschem_symbols/comp_tb.sch
**.subckt comp_tb
V_VIN Vinn GND dc {VCM - VDIFF/2}
VDD_SRC vdd GND dc {VDD}
V_VINP Vinp GND dc {VCM + VDIFF/2}
V_VSS vss GND dc 0
V_CLK CLK GND PULSE(0 {VDD} 1n 20p 20p 3n 6n)
COUT Voutp GND {CLOAD}
COUT1 Voutn GND {CLOAD}
x1 vdd CLK Voutn Voutp net1 net2 Vinp Vinn vss simple_comparator
**** begin user architecture code

.lib /home/arjun/eda/pdks/IHP-Open-PDK/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.lib /home/arjun/eda/pdks/IHP-Open-PDK/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerRES.lib res_typ
.lib /home/arjun/eda/pdks/IHP-Open-PDK/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOShv.lib mos_tt
.lib /home/arjun/eda/pdks/IHP-Open-PDK/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerRES.lib res_typ



.param VDD=3.3
.param VCM=1.65
.param VREF=3.3
.param NBITS=10
.param VLSB=3.22265625e-3
.param VHLSB=1.611328125e-3
.param VDIFF=10e-3
.param CLOAD=20f

.options savecurrents
.options reltol=1e-4 abstol=1e-12 vntol=1e-6 method=gear

.save v(CLK) v(Vinp) v(Vinn) v(Voutp) v(Voutn)
.save v(x1.net1) v(x1.net2) v(x1.net3) v(x1.net4) v(x1.vs_dp)
.save i(VDD_SRC)

.control

alterparam VDD=3.3
alterparam VCM=1.65
alterparam VDIFF=10e-3
reset

tran 1p 6n

write strong_arm_comp_tb.raw

.endc



**** end user architecture code
**.ends

* expanding   symbol:  simple_comparator.sym # of pins=9
** sym_path: /home/arjun/eda/projects/SAR_ADC/circuit_files/xschem_symbols/simple_comparator.sym
** sch_path: /home/arjun/eda/projects/SAR_ADC/circuit_files/xschem_symbols/simple_comparator.sch
.subckt simple_comparator VDD_comparator CLK Voutn Voutp Debug_NC_Vright_gm Debug_NC_Vleft_gm Vinp Vinn VSS_comparator
*.ipin CLK
*.ipin Vinp
*.iopin VSS_comparator
*.iopin VDD_comparator
*.ipin Vinn
*.opin Debug_NC_Vright_gm
*.opin Debug_NC_Vleft_gm
*.opin Voutp
*.opin Voutn
XM1 net2 net1 VDD_comparator VDD_comparator sg13_hv_pmos w=0.3u l=0.4u ng=1 m=1 mm_ok=1
XM2 Debug_NC_Vleft_gm Vinp VS_dp VSS_comparator sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1 mm_ok=1
XM3 net2 net1 Debug_NC_Vleft_gm VSS_comparator sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1 mm_ok=1
XM4 Debug_NC_Vright_gm Vinn VS_dp VSS_comparator sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1 mm_ok=1
XM5 net1 net2 Debug_NC_Vright_gm VSS_comparator sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1 mm_ok=1
XM6 net1 net2 VDD_comparator VDD_comparator sg13_hv_pmos w=0.3u l=0.4u ng=1 m=1 mm_ok=1
XM7 VS_dp CLK VSS_comparator VSS_comparator sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1 mm_ok=1
XM8 net1 CLK VDD_comparator VDD_comparator sg13_hv_pmos w=0.3u l=0.4u ng=1 m=1 mm_ok=1
XM9 net2 CLK VDD_comparator VDD_comparator sg13_hv_pmos w=0.3u l=0.4u ng=1 m=1 mm_ok=1
XM10 net3 net1 VDD_comparator VDD_comparator sg13_hv_pmos w=0.3u l=0.4u ng=1 m=1 mm_ok=1
XM11 net3 net1 VSS_comparator VSS_comparator sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1 mm_ok=1
XM12 Voutn net3 VDD_comparator VDD_comparator sg13_hv_pmos w=0.3u l=0.4u ng=1 m=1 mm_ok=1
XM13 Voutn net3 VSS_comparator VSS_comparator sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1 mm_ok=1
XM14 net4 net2 VDD_comparator VDD_comparator sg13_hv_pmos w=0.3u l=0.4u ng=1 m=1 mm_ok=1
XM15 net4 net2 VSS_comparator VSS_comparator sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1 mm_ok=1
XM16 Voutp net4 VDD_comparator VDD_comparator sg13_hv_pmos w=0.3u l=0.4u ng=1 m=1 mm_ok=1
XM17 Voutp net4 VSS_comparator VSS_comparator sg13_hv_nmos w=0.3u l=0.45u ng=1 m=1 mm_ok=1
.ends

.GLOBAL GND
.end
