** sch_path: /home/arjun/eda/projects/SAR_ADC/circuit_files/sar_adc_test/xschem/dac_sw_2to1_tg.sch
**.subckt dac_sw_2to1_tg sel out vss vdd vref vcm
*.ipin sel
*.iopin vdd
*.iopin vref
*.iopin vcm
*.iopin vss
*.iopin out
x1 vss sel selb vdd vref out tg
x3 vss selb sel vdd vcm out tg
x2 vdd sel selb vss inverter
**.ends

* expanding   symbol:  /home/arjun/eda/projects/SAR_ADC/circuit_files/sar_adc_test/xschem/tg.sym # of pins=6
** sym_path: /home/arjun/eda/projects/SAR_ADC/circuit_files/sar_adc_test/xschem/tg.sym
** sch_path: /home/arjun/eda/projects/SAR_ADC/circuit_files/sar_adc_test/xschem/tg.sch
.subckt tg vss ng pg vdd a b
*.ipin ng
*.iopin vdd
*.ipin pg
*.iopin a
*.iopin b
*.iopin vss
XM12 b ng a vss sg13_hv_nmos w=2u l=0.45u ng=1 m=1 mm_ok=1
XM16 b pg a vdd sg13_hv_pmos w=2u l=0.4u ng=1 m=2 mm_ok=1
.ends


* expanding   symbol:  /home/arjun/eda/projects/SAR_ADC/circuit_files/sar_adc_test/xschem/inverter.sym # of pins=4
** sym_path: /home/arjun/eda/projects/SAR_ADC/circuit_files/sar_adc_test/xschem/inverter.sym
** sch_path: /home/arjun/eda/projects/SAR_ADC/circuit_files/sar_adc_test/xschem/inverter.sch
.subckt inverter vdd Vinn Voutp vss
*.iopin vdd
*.iopin vss
*.ipin Vinn
*.opin Voutp
XM12 Voutp Vinn vss vss sg13_hv_nmos w=2u l=0.45u ng=1 m=1 mm_ok=1
XM16 Voutp Vinn vdd vdd sg13_hv_pmos w=2u l=0.4u ng=1 m=2 mm_ok=1
.ends

.end
